US05679671
(3S)-[[(2S,3S)-2-Acetylthio-3,4-dimethyl-1-oxopentyl]amino]-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one
0.500 g (1.91 mmol) of (3S)-amino-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one and 0.430 g (2.1 mmol) of (2S,3S)-2-acetylthio-3,4-dimethylpentanoic acid were treated by the same method as that of Example 101(h). Thus, 0.420 g of the title compound was obtained.

reactant | (3S)-amino-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 1.91 mmol, 0.500 g | N[C@@H]1C(N(C2=C(CC1)C=CC=C2)CC(=O)OCC)=O | C14H18N2O3
reactant | (2S,3S)-2-acetylthio-3,4-dimethylpentanoic acid | 2.1 mmol, 0.430 g | C(C)(=O)S[C@H](C(=O)O)[C@H](C(C)C)C | C9H16O3S
product | (3S)-[[(2S,3S)-2-Acetylthio-3,4-dimethyl-1-oxopentyl]amino]-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 0.420 g | C(C)(=O)S[C@H](C(=O)N[C@@H]1C(N(C2=C(CC1)C=CC=C2)CC(=O)OCC)=O)[C@H](C(C)C)C | C23H32N2O5S
